US07279580B2
2-(3-Bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 2′-cyano-2-fluorobiphenyl-3-boronic acid (prepared as described in WO 02/38568) as described in Example 1 to give 2′-fluoro-3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile as an off-white solid (55 mg, 30%): δH (360 MHz, CDCl3) 2.36 (6H, d, J 1), 7.83 (1H, t, J 7), 8.03-8.26 (5H, m), 8.32-8.36 (1H, m), 8.39 (1H, s), 8.44 (1H, d, J 8), 8.69 (1H, q, J 4); m/z (ES+) 390 [MH+].

reactant | 2-(3-Bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=C2F)C(C)(C)O | C10H10BrFN2O
reactant | 2′-cyano-2-fluorobiphenyl-3-boronic acid | C(#N)C1=C(C=CC=C1)C1=C(C(=CC=C1)B(O)O)F | C13H9BFNO2
product | 2′-fluoro-3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile | 55 mg, 30% | FC1=C(C=CC=C1C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C=2C(=CC=CC2)C#N | C23H17F2N3O
